US08791161B2
ethyl 6-[(tert-butoxycarbonyl)amino]pyridine-2-carboxylate
A mixture of ethyl 6-aminopyridine-2-carboxylate (1.57 g, 9.43 mmol), DMAP (1.12 g, 9.18 mmol), and di-tert-butyl dicarbonate (2.46 g, 11.3 mmol) in THF (45 ml) was heated at 60° C. for 16 h. The solvent was removed and the residue was purified by chromatography on silica gel (10→15% ethyl acetate in hexane) to yield the title compound as a white solid (2.50 g, 100%).

reactant | ethyl 6-aminopyridine-2-carboxylate | 9.43 mmol, 1.57 g | NC1=CC=CC(=N1)C(=O)OCC | C8H10N2O2
reactant | di-tert-butyl dicarbonate | 11.3 mmol, 2.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 9.18 mmol, 1.12 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | ethyl 6-[(tert-butoxycarbonyl)amino]pyridine-2-carboxylate | 2.50 g, 100% | C(C)(C)(C)OC(=O)NC1=CC=CC(=N1)C(=O)OCC | C13H18N2O4
